US04749701
Synthesis of 2-(trans-3-aminostyryl)quinoline
An amount of 20.0 g of 2-(trans-3-nitrostyryl) quinoline was dissolved in 1000 ml of ethanol and 100 ml of conc. hydrochloric acid solution containing 49.0 g of stannous chloride.2 hydride was added thereto at room temperature, and the resulting mixture was refluxed for 5 hours. After the reaction mixture was cooled to room temperature, a 30% aqueous sodium hydroxide solution was added to regulate pH value to 13 and then the precipitated solid was collected by filtration and washed with water. After drying under reduced pressure, the precipitate was recrystallized from toluene to give 15.0 g (yield 84%) of the captioned compound as a pale yellowish white substance.

reactant | 2-(trans-3-nitrostyryl) quinoline | 20.0 g | [N+](=O)([O-])C=1C=C(/C=C/C2=NC3=CC=CC=C3C=C2)C=CC1 | C17H12N2O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | hydride | [H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2-(trans-3-aminostyryl)quinoline | 15.0 g, yield 84% | NC=1C=C(/C=C/C2=NC3=CC=CC=C3C=C2)C=CC1 | C17H14N2
